US06211199B1
3-(2-(4-(1-(2-Ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(t-butoxycarbonyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine (10 mmol) and a solution of hydrochloric acid in dioxane (10 mL. 4 M, 40 mmol) in dichloromethane (150 mL). After 24 hours, evaporate in vacuo to give a residue. Partition the residue between with dichloromethane (300 mL) and a saturated aqueous solution of sodium bicarbonate. Separate the organic layer and extract with brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | 10 mmol | C(C)(C)(C)OC(=O)N1CC(CC1)(C1=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1CCOCC)C=CC=C2 | C33H47N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 40 mmol, 4 M, 10 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-(2-(4-(1-(2-Ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2(CNCC2)C2=CC=CC=C2 | C28H39N5O
